US06248738B1
A solution of n-BuLi (1.76 mL, 2.5 M in hexanes, 4.4 mmol) was added to a stirred solution of 5-bromo-1-chloroisoquinoline (Braye, E.; Eloy, F.; Hoogzand, C.; Lenaers, R. Eur. J. Med. Chem., Chim. Therap. 1974, 9, 197) (1.0 g, 4.12 mmol) in THF-ether (36 mL, 1:1) at −78° C. under N2. After 20 minutes, DMF (0.66 mL, 8.5 mmol) was added and after an additional 30 minutes at −78° C. the reaction was quenched with EtOH (3 mL) and warmed to room temperature. The mixture was diluted with ether (150 mL), washed with saturated NH4Cl (50 mL), brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by column chromatography upon silica gel using hexanes-EtOAc (95:5 to 50:50) as eluant to give 1-chloro-5-isoquinolinecarboxaldehyde (308 mg, 1.61 mmol) as a white solid.

reactant | n-BuLi | 4.4 mmol, 2.5 M, 1.76 mL | [Li]CCCC
reactant | 5-bromo-1-chloroisoquinoline | 4.12 mmol, 1.0 g | BrC1=C2C=CN=C(C2=CC=C1)Cl | C9H5BrClN
reactant | DMF | 8.5 mmol, 0.66 mL | CN(C)C=O | C3H7NO
product | 1-chloro-5-isoquinolinecarboxaldehyde | 1.61 mmol, 308 mg | ClC1=NC=CC=2C(=CC=CC12)C=O | C10H6ClNO
